US04634704
A mixture of 2.7 parts of 2-bromothiazole, 5.1 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(2-furanylmethyl)-1H-benzimidazol-2-amine, 5 parts of sodium carbonate, 0.1 parts of sodium iodide and 9 parts of N,N-dimethylacetamide was stirred for 3 hours at about 140° C. Water was added and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 3 parts of 1-(2-furanylmethyl)-N-[1-[2-(2-thiazolylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 153.1° C. (compound 48).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(2-furanylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC=1OC=CC1)C=CC=C2 | C19H25N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 1-(2-furanylmethyl)-N-[1-[2-(2-thiazolylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=CN2 | C22H26N6OS
